US05380721
To a solution of 2-methyl-4-(4-methylthiophenyl)-1-(2H)-phthalazinone (14.15 g, 0.05 mol) in acetic acid (330 mL) was added 30% H2O2 (22 mL). The mixture was heated to 35° C. overnight, additional 30% H2O2 (10 mL) was added and the mixture was stirred at 35° C. for 2 hours and finally one final portion of 30% H2O2 (10 mL) was added and the mixture was stirred for another 2 hours at 35° C. The reaction mixture was poured into water (1 L)/ice and the solid thus obtained was collected by filtration, washed with water, then ether, and then was dried to afford 14.6 g (93%) of 2-methyl-4-(4-methylsulfonylphenyl)-1-(2H)-phthalazinone as a pale yellow solid, m.p. 218°-220° C. when recrystallized from ethanol/chloroform (2×).

reactant | 2-methyl-4-(4-methylthiophenyl)-1-(2H)-phthalazinone | 0.05 mol, 14.15 g | CN1C(C2=CC=CC=C2C(=N1)C1=CC=C(C=C1)SC)=O | C16H14N2OS
reactant | H2O2 | 22 mL | OO | H2O2
reactant | H2O2 | 10 mL | OO | H2O2
reactant | H2O2 | 10 mL | OO | H2O2
reactant | water | 1 L | O | H2O
reactant | acetic acid | 330 mL | C(C)(=O)O | C2H4O2
product | 2-methyl-4-(4-methylsulfonylphenyl)-1-(2H)-phthalazinone | 14.6 g, 93% | CN1C(C2=CC=CC=C2C(=N1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C16H14N2O3S
